US08937150B2
4-bromo-5-fluoro-2-nitroaniline
To N-(4-bromo-5-fluoro-2-nitrophenyl)-2,2,2-trifluoroacetamide (3.5 g, 10.5 mmol) was added CH3OH (30 mL) followed by 1.0 M K2CO3 (10.5 mL, 10.5 mmol), and the solution was stirred for 30 minutes (Charifson, P. S.; et al. J. Med. Chem. 2008, 51, 5243-5263). The solution was diluted with H2O and stirred for 1 hour. The resulting orange solid was collected by filtration and dried in a vacuum oven to give the title compound (2.1,g, 8.8 mmol, 84%).

reactant | N-(4-bromo-5-fluoro-2-nitrophenyl)-2,2,2-trifluoroacetamide | 10.5 mmol, 3.5 g | BrC1=CC(=C(C=C1F)NC(C(F)(F)F)=O)[N+](=O)[O-] | C8H3BrF4N2O3
reactant | CH3OH | 30 mL | CO | CH4O
reactant | K2CO3 | 10.5 mmol, 1.0 M, 10.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | O | H2O
product | 4-bromo-5-fluoro-2-nitroaniline | 8.8 mmol, 84% | BrC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4BrFN2O2
